US06184236B2
A mixture of trans-[4-(4-benzyloxy-phenyl)-cyclohexyl]-(3-phenyl-propyl)-amine (0.4 g, 1.0 mmol), pyridine (4 ml) and acetic anhydride (2 ml) was stirred at 0° for 1 h. Evaporation of the solvents and crystallization of the residue with hexane, gave trans-N-[4-(4-benzyloxy-phenyl)-cyclohexyl]-N-(3-phenyl-propyl)-acetamide (0.26 g, 59%) as white crystals. Mp. 80.0-81.5°, MS: m/e=441 (M+).

reactant | trans-[4-(4-benzyloxy-phenyl)-cyclohexyl]-(3-phenyl-propyl)-amine | 1.0 mmol, 0.4 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)NCCCC1=CC=CC=C1 | C28H33NO
reactant | acetic anhydride | 2 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 4 ml | N1=CC=CC=C1 | C5H5N
product | trans-N-[4-(4-benzyloxy-phenyl)-cyclohexyl]-N-(3-phenyl-propyl)-acetamide | 0.26 g, 59% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)N(C(C)=O)CCCC1=CC=CC=C1 | C30H35NO2
